US09056874B2
(±)-2-(Hydroxy(7-methyl-5-(methylsulfonyl)-1H-indol-4-yl)methyl)-1H-benzo[d]imidazole-5-carbonitrile
To a mixture of (±)-2-(hydroxy(7-methyl-5-(methylsulfonyl)-1-tosyl-1H-indol-4-yl)methyl)-1-((2-(trimethylsilyl)ethoxy)methyl)-1H-benzo[d]imidazole-6-carbonitrile and (±)-2-(hydroxy(7-methyl-5-(methylsulfonyl)-1-tosyl-1H-indol-4-yl)methyl)-1-((2-(trimethylsilyl)ethoxy)methyl)-1H-benzo[d]imidazole-5-carbonitrile (100 mg, 0.150 mmol) was added a 1 M solution of lithium tetrafluoroborate in MeCN (3.0 mL, 3 mmol). Water (0.3 mL) was then added and the reaction heated to 70° C. overnight. The reaction mixture was cooled to room temperature, diluted with water and extracted with EtOAc. The organic extract was dried over MgSO4, filtered and concentrated. The resulting residue was dissolved in EtOH (1.3 mL) and isomylamine (0.3 mL, 2.6 mmol) and KOH (0.072 g, 1.3 mmol) were added. The mixture was then heated to 100° C. for 1 h using microwave irradiation. The mixture was then concentrated directly and purified using FCC eluting with DCM:MeOH:NH4OH 100:0:0 to 80:18:2 to give the title compound. 1H NMR (400 MHz, DMSO-d6) δ 13.17 (br. s., 1H), 11.50 (br. s., 1H), 7.83-8.00 (m, 1H), 7.61-7.67 (m, 1H), 7.49-7.58 (m, 2H), 7.41-7.49 (m, 1H), 7.35 (q, J=2.40 Hz, 1H), 6.91 (dd, J=4.67, 7.58 Hz, 1H), 6.58 (dt, J=1.89, 3.66 Hz, 1H), 3.46 (m, 3H), 2.53 (s, 3H). HRMS calcd. for C19H16N4O3S (M+H)+ 381.1021. found 381.1013.

reactant | (±)-2-(hydroxy(7-methyl-5-(methylsulfonyl)-1-tosyl-1H-indol-4-yl)methyl)-1-((2-(trimethylsilyl)ethoxy)methyl)-1H-benzo[d]imidazole-6-carbonitrile | OC(C1=NC2=C(N1COCC[Si](C)(C)C)C=C(C=C2)C#N)C2=C1C=CN(C1=C(C=C2S(=O)(=O)C)C)S(=O)(=O)C2=CC=C(C)C=C2 | C32H36N4O6S2Si
reactant | (±)-2-(hydroxy(7-methyl-5-(methylsulfonyl)-1-tosyl-1H-indol-4-yl)methyl)-1-((2-(trimethylsilyl)ethoxy)methyl)-1H-benzo[d]imidazole-5-carbonitrile | 0.150 mmol, 100 mg | OC(C1=NC2=C(N1COCC[Si](C)(C)C)C=CC(=C2)C#N)C2=C1C=CN(C1=C(C=C2S(=O)(=O)C)C)S(=O)(=O)C2=CC=C(C)C=C2 | C32H36N4O6S2Si
reactant | lithium tetrafluoroborate | F[B-](F)(F)F.[Li+]
reactant | MeCN | 3 mmol, 3.0 mL | CC#N | C2H3N
reactant | isomylamine | 2.6 mmol, 0.3 mL | CCN(CC)CCOC(=O)C1(CCCCC1)CCC(C)C | C18H35NO2
reactant | KOH | 1.3 mmol, 0.072 g | [OH-].[K+]
solvent | water | O | H2O
solvent | Water | 0.3 mL | O | H2O
product | (±)-2-(Hydroxy(7-methyl-5-(methylsulfonyl)-1H-indol-4-yl)methyl)-1H-benzo[d]imidazole-5-carbonitrile | OC(C1=NC2=C(N1)C=CC(=C2)C#N)C2=C1C=CNC1=C(C=C2S(=O)(=O)C)C | C19H16N4O3S
